* c:\users\vansh\esim-workspace\priority_encoder\priority_encoder.cir

* u13  i0 i1 i2 i3 i4 i5 i6 i7 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ adc_bridge_8
v1  i0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v2  i1 gnd pulse(0 10 0.1m 0.1m 0.1m 4 8)
v3  i2 gnd pulse(0 5 0.1m 0.1m 0.1m 20 40)
v4  i3 gnd pulse(0 10 0.1m 0.1m 0.1m 3 4)
v5  i4 gnd pulse(0 5 0.1m 0.1m 0.1m 50 65)
v6  i5 gnd pulse(0 10 0.1m 0.1m 0.1m 10 20)
v7  i6 gnd pulse(0 5 0.1m 0.1m 0.1m 5 10)
v8  i7 gnd pulse(0 10 0.1m 0.1m 0.1m 1 4)
* u1  i0 plot_v1
* u2  i1 plot_v1
* u3  i2 plot_v1
* u4  i3 plot_v1
* u5  i4 plot_v1
* u8  i7 plot_v1
* u7  i6 plot_v1
* u6  i5 plot_v1
* u9  o0 plot_v1
* u10  o1 plot_v1
* u11  o2 plot_v1
r3  net-_r3-pad1_ o2 1k
r2  net-_r2-pad1_ o1 1k
r1  net-_r1-pad1_ o0 1k
* u14  net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ dac_bridge_3
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ priority_encode_vanshika
a1 [i0 i1 i2 i3 i4 i5 i6 i7 ] [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ ] u13
a2 [net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ ] [net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ ] u14
a3 [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ ] [net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ ] u12
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             priority_encode_vanshika, NgSpice Name: priority_encode_vanshika
.model u12 priority_encode_vanshika(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 20e-00 200e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(i0)+5 v(i1)+10 v(i2)+15 v(i3)+20 v(i4)+25 v(i5)+30 v(i6)+35 v(i7)+40
plot v(o0)+5 v(o1)+10 v(o2)+15
.endc
.end
